US07745458B2
Preparation 4: 5-hexenimidamide hydrochloride (P4)
Methyl 5-hexenimidoate hydrochloride (P3, 1.5 g) was dissolved in NH3 (2M in MeOH, 46 mL) and the mixture was heated to reflux for 2 h. Volatiles were evaporated in vacuo to give 1.45 g of the title compound as brown solid, which was used in the subsequent step without further purification.

reactant | Methyl 5-hexenimidoate hydrochloride | 1.5 g | Cl.C(CCCC=C)(OC)=N
reactant | NH3 | 2M, 46 mL | N | H3N
product | 5-hexenimidamide hydrochloride | 1.45 g | Cl.C(CCCC=C)(N)=N | InChI=1S/C6H12N2.ClH/c1-2-3-4-5-6(7)8;/h2H,1,3-5H2,(H3,7,8);1H
